US07157487B2
In THF (8 ml) was dissolved ethyl (3-(2-benzoxazolyl)amino-2-chloro-6-pyridyl)acetate (460 mg, 1.39 mmol). To the resulting solution was added 0.5N NaOH (8.0 ml, 4.00 mmol). The resulting mixture was stirred at room temperature for 1 hour. The reaction mixture was poured in ice-1N HCl to acidify the mixture. The crystals thus precipitated were collected by filtration under reduced pressure, washed with water and dried under reduced pressure to give (3-(2-benzoxazolyl)amino-2-chloro-6-pyridyl)acetic acid (332 mg, 79%) as a white solid.

reactant | ethyl (3-(2-benzoxazolyl)amino-2-chloro-6-pyridyl)acetate | 1.39 mmol, 460 mg | O1C(=NC2=C1C=CC=C2)NC=2C(=NC(=CC2)CC(=O)OCC)Cl | C16H14ClN3O3
reactant | NaOH | 4.00 mmol, 0.5N, 8.0 ml | [OH-].[Na+]
solvent | THF | 8 ml | C1CCOC1 | C4H8O
product | (3-(2-benzoxazolyl)amino-2-chloro-6-pyridyl)acetic acid | 332 mg, 79% | O1C(=NC2=C1C=CC=C2)NC=2C(=NC(=CC2)CC(=O)O)Cl | C14H10ClN3O3
